US07763731B2
1-Benzyloxy-3-nitro-benzene
3-Nitro-phenol (1.00 g, 7.189 mmol) was treated with benzyl bromide (1.352 g, 7.91 mmol), and K2CO3 (1.242 g, 8.986 mmol) in DMF. The reaction mixture was heated to 100° C. for 1 hr at which time the reaction mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. Dried over Na2SO4, filtered and concentrated under vacuum giving the title compound (1.6 g, 97%).

reactant | 3-Nitro-phenol | 7.189 mmol, 1.00 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | benzyl bromide | 7.91 mmol, 1.352 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 8.986 mmol, 1.242 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Benzyloxy-3-nitro-benzene | 1.6 g, 97% | C(C1=CC=CC=C1)OC1=CC(=CC=C1)[N+](=O)[O-] | C13H11NO3
